US06479487B1
1-(2-Chlorobenzyl)-4-piperidone is prepared from 4-piperidone and 2-chlorobenzyl chloride essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
product | 1-(2-Chlorobenzyl)-4-piperidone | ClC1=C(CN2CCC(CC2)=O)C=CC=C1 | C12H14ClNO
